US06518284B2
4-benzoyl-piperidine (2.0 g, 10.6 mmol) was added over a solution of 6.8 g of (+)-B-chlorodiisopinocanfeilboran ((+)-DIP-Cl) (21.25 mmol) in dichloromethane (20 mL, dry) cooled down to 3-4° C. After reacting for 72 h, 2.0 mL of acetaldehyde (35.46 mmol) were added and stirred at room temperature for 3 h. 24 mL of an aqueous NaOH (6N) solution, dichloromethane and saturated aqueous NaCl solution were added. The phases were separated and the usual treatment of the organic phase provided (+)-α-phenyl4-piperidinemethanol as a white solid with a m.p.=64-66° C. in a 90% yield (84% ee).

reactant | 4-benzoyl-piperidine | 10.6 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)C1CCNCC1 | C12H15NO
reactant | acetaldehyde | 35.46 mmol, 2.0 mL | C(C)=O | C2H4O
reactant | NaOH | 6N, 24 mL | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (+)-α-phenyl4-piperidinemethanol | 90% yield | C1(=CC=CC=C1)C(O)C1CCNCC1 | C12H17NO
